US04243806
2-(1-methylethyl)-1H-benzimidazole-5-methanol;
2-cyclopentyl-1H-benzimidazole-5-methanol as a residue; and 2-cyclopropyl-1H-benzimidazole-5-methanol as a residue.

reactant | 2-cyclopentyl-1H-benzimidazole-5-methanol | C1(CCCC1)C1=NC2=C(N1)C=CC(=C2)CO | C13H16N2O
reactant | 2-cyclopropyl-1H-benzimidazole-5-methanol | C1(CC1)C1=NC2=C(N1)C=CC(=C2)CO | C11H12N2O
product | 2-(1-methylethyl)-1H-benzimidazole-5-methanol | CC(C)C1=NC2=C(N1)C=CC(=C2)CO | C11H14N2O
